US07687490B2
A solution of 3.84 ml of n-pentylamine and 5.02 ml of triethylamine in 38 ml of toluene was added dropwise to 24 ml of a solution of 2.39 ml of chloromethyl chloroformate in toluene while cooling in an ice bath over a period of 15 min, and the mixture was stirred at room temperature for 15 hr. 1 N hydrochloric acid (60 ml) was added thereto, followed by separation. The organic layer was washed with 60 ml of a 5% aqueous sodium hydrogencarbonate solution and 60 ml of 20% brine, was dried over anhydrous magnesium sulfate, and was filtered. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography on silica gel (n-hexane:ethyl acetate=3:1) to give 3.31 g of chloromethyl N-pentan-1-ylcarbamate.

reactant | n-pentylamine | 3.84 ml | C(CCCC)N | C5H13N
reactant | triethylamine | 5.02 ml | C(C)N(CC)CC | C6H15N
reactant | chloromethyl chloroformate | 2.39 ml | ClC(=O)OCCl | C2H2Cl2O2
reactant | hydrochloric acid | 1 N, 60 ml | Cl | ClH
solvent | toluene | 38 ml | C1(=CC=CC=C1)C | C7H8
product | chloromethyl N-pentan-1-ylcarbamate | 3.31 g | C(CCCC)NC(OCCl)=O | C7H14ClNO2
